US05089496
5-HYDROXY-8-CHLORO-11-(1-ACETYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE
To a mixture of 32.6 mg (0.10 mmole) of 5-hydroxy-8-chloro-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine and 9.7 )1 (0.12 mmole) of pyridine in a solution of 2 mL of methanol and 1 mL of CH2Cl2 at 0° C. and under a nitrogen atmosphere was added 11.3 )1 (0.12 mmole) of acetic anhydride. After 30 min. the mixture was poured into water which was subsequently adjusted to pH of about 9 with aqueous sodium hydroxide. The mixture was extracted 2× with CH2Cl2. The organic portions were combined, washed once with brine, dried over Na2SO4, filtered, and concentrated in vacuo to yield 31.2 mg of the title compound as a glass.

reactant | 5-hydroxy-8-chloro-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.10 mmole, 32.6 mg | OC1CC2=C(C(C3=NC=CC=C31)=C3CCNCC3)C=CC(=C2)Cl | C19H19ClN2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | 5-HYDROXY-8-CHLORO-11-(1-ACETYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE | 31.2 mg | OC1CC2=C(C(C3=NC=CC=C31)=C3CCN(CC3)C(C)=O)C=CC(=C2)Cl | C21H21ClN2O2
